US05317016
To a solution of crude (2S,4S)-1-t-butoxycarbonyl-2-aminomethyl-4-mercaptopyrrolidine (4.1 g) in dichloromethane (250 ml) at -70° C. under a stream of nitrogen, triethylamine (8.87 ml) and trimethylchlorosilane (6.73 ml) are added. The mixture is stirred for 1 hour and 40 minutes, mixed with triethylamine (8.87 ml) and a solution of 1M-sulfamoyl chloride in dichloromethane (64 ml), and stirred for 1 hour. The reaction mixture is acidified with dilute hydrochloric acid. The organic layer is taken, diluted with 1N-hydrochloric acid (21 ml) and methanol (50 ml), stirred for 35 minutes at room temperature, and poured into water. The organic layer is taken, washed with water, dried over magnesium sulfate, and concentrated in vacuo. The residue is purified by silica gel column chromatography to give (2S,4S)-1-t-butoxycarbonyl-2-sulfamoylaminomethyl-4-mercaptopyrrolidine (4.57 g). Yield: 69%. Colorless syrup. NMR δ(CDCl3) ppm: 1.46(s, 9H), 1.5 to 1.8(m, 1H), 1.71(d, J=6.6 Hz, 1H), 2.5 to 2.67(m, 1H), 3.0 to 3.46(m, 4H), 3.85 to 4.2(m, 2H), 4.6 (br s, 2H). IR ν (CHCl3) cm-1 : 3420, 3340, 3270, 1679.

reactant | (2S,4S)-1-t-butoxycarbonyl-2-aminomethyl-4-mercaptopyrrolidine | 4.1 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)S)CN | C10H20N2O2S
reactant | triethylamine | 8.87 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylchlorosilane | 6.73 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | triethylamine | 8.87 ml | C(C)N(CC)CC | C6H15N
reactant | sulfamoyl chloride | S(N)(=O)(=O)Cl | ClH2NO2S
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 64 ml | ClCCl | CH2Cl2
solvent | hydrochloric acid | 21 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
solvent | water | O | H2O
product | (2S,4S)-1-t-butoxycarbonyl-2-sulfamoylaminomethyl-4-mercaptopyrrolidine | 4.57 g, Yield: 69% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)S)CNS(N)(=O)=O | C10H21N3O4S2
